US04540789
Methyl 2,6-dimethyl-5-nitro-4-(2-phenyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate
10 mmol each of 2-phenyl-4-oxo-4H-chromen-8-aldehyde, methyl 3-aminocrotonate and nitroacetone are boiled under reflux in 20 ml of absolute EtOH for 3 hours, the mixture is concentrated and the residue is crystallized from methanol.

reactant | 2-phenyl-4-oxo-4H-chromen-8-aldehyde | 10 mmol | C1(=CC=CC=C1)C=1OC2=C(C=CC=C2C(C1)=O)C=O | C16H10O3
reactant | methyl 3-aminocrotonate | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | nitroacetone | [N+](=O)([O-])CC(C)=O | C3H5NO3
solvent | EtOH | 20 ml | CCO | C2H6O
product | Methyl 2,6-dimethyl-5-nitro-4-(2-phenyl-4-oxo-4H-chromen-8-yl)-1,4-dihydropyridine-3-carboxylate | CC=1NC(=C(C(C1C(=O)OC)C=1C=CC=C2C(C=C(OC12)C1=CC=CC=C1)=O)[N+](=O)[O-])C | C24H20N2O6
